US04340698
5.8 g (0.25 mol) sodium was added to a solution of 22 g (0.25 mol) N,N-dimethylaminoethanol in 350 ml dry toluene. After all the sodium had reacted, 35 g (0.25 mol) butyl bromide was added and the reaction mixture was subsequently refluxed for 2 hours. The reaction mixture was then cooled and washed with water. The toluene layer was extracted with dilute hydrochloric acid. The aqueous layer was subsequently rendered basic with respect to phenolphthalein and extracted with ether. The ether layer was dried and ether evaporated off. The residue was distilled. The dimethyl(2-butoxyethyl)amine obtained had a boiling point of 163°-164° C.

reactant | sodium | 0.25 mol, 5.8 g | [Na] | Na
reactant | N,N-dimethylaminoethanol | 0.25 mol, 22 g | CN(C)CCO | C4H11NO
reactant | butyl bromide | 0.25 mol, 35 g | C(CCC)Br | C4H9Br
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl(2-butoxyethyl)amine | CN(CCOCCCC)C | C8H19NO
